US07014663B2
A mixture of [2-(3,5-dibromo-4-nitropyrazol-1-yl)ethyl]carbamic acid tert-butyl ester (3.5 g; 8.45 mmol), EtOH (100 ml) and benzylamine (12.9 g, 117 mmol) was heated at reflux for 1.5 h. The reaction medium was concentrated as much as possible under reduced pressure. The residue was taken up in DCM (100 ml) and the organic phase was washed with water (5×50 ml) until all excess benzylamine had been removed and was then dried over Na2SO4. The organic solvent was evaporated under reduced pressure to give the [2-(5-benzylamino-3-bromo-4-nitropyrazol-1-yl)ethyl]carbamic acid tert-butyl ester (2.5 g, 67%) in the form of a pale yellow solid.

reactant | [2-(3,5-dibromo-4-nitropyrazol-1-yl)ethyl]carbamic acid tert-butyl ester | 8.45 mmol, 3.5 g | C(C)(C)(C)OC(NCCN1N=C(C(=C1Br)[N+](=O)[O-])Br)=O | C10H14Br2N4O4
reactant | benzylamine | 117 mmol, 12.9 g | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOH | 100 ml | CCO | C2H6O
product | [2-(5-benzylamino-3-bromo-4-nitropyrazol-1-yl)ethyl]carbamic acid tert-butyl ester | 2.5 g, 67% | C(C)(C)(C)OC(NCCN1N=C(C(=C1NCC1=CC=CC=C1)[N+](=O)[O-])Br)=O | C17H22BrN5O4
